US04001254
101 g of triethylamine and subsequently 50 g of n-hexylamino are placed into 600 ml of distilled anhydrous ethanol. An amount of 79 g of 2-chloro-5-nitropyridine is added portionwise at room temperature in the course of 15 minutes. The mixture is then heated to reflux temperature, whereby it goes into solution at 60° C. The solution is stirred for 24 hours at the reflux temperature and afterwards cooled to room temperature; the solution is poured into ice/water, and the formed precipitate filtered off. The 2-n-hexylamino-5-nitropyridine obtained after recrystallisation from ethanol/water melts at 56°-57° C.

reactant | triethylamine | 101 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5-nitropyridine | 79 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 2-n-hexylamino-5-nitropyridine | C(CCCCC)NC1=NC=C(C=C1)[N+](=O)[O-] | C11H17N3O2
